US06605629B1
Ethyl 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-thiazolebutanoate (2.00 g) was dissolved in 20 ml of tetrahydrofuran, to which was added gradually lithium aluminum hydride (195 mg) under ice-cooling. The resulting mixture was stirred for 1 hour. Water (0.5 ml) was carefully added to the reaction mixture, the resulting mixture was filtered, and the residue on the filter paper was washed with ethyl acetate. The filtrate was concentrated to give crystals of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-thiazolebutanol (1.28g, 72%). Recrystallization from ethyl acetate-hexane gave pale yellow prisms. Melting point 98-99° C.

reactant | Ethyl 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-thiazolebutanoate | 2.00 g | ClC1=CC=C(C=C1)C=1N=C(SC1CCCC(=O)OCC)N1C(=NC=C1)C | C19H20ClN3O2S
reactant | lithium aluminum hydride | 195 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.5 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-thiazolebutanol | 1.28g, 72% | ClC1=CC=C(C=C1)C=1N=C(SC1CCCCO)N1C(=NC=C1)C | C17H18ClN3OS
